US05153318
a) 2-Amino-6-methylpropylamino-9H-purine
2-Amino-6-chloropurine (Sigma, lot #69F4064, 6.0 g, 35.4 mmol) was suspended in 75mL acetonitrile. N-Methylpropylamine (Aldrich, lot #00923AW. 10.0 g, 136.7 mmol) was added and the reaction stirred at 75° C. for 24 hours. The solvents were evaporated to give an oil. Stirring the oil with water yielded a solid which was filtered and dried to give 5.9 g (28.6 mmol, 81%); mp=181°C.

reactant | 2-Amino-6-chloropurine | 35.4 mmol, 6.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | N-Methylpropylamine | 136.7 mmol, 10.0 g | CNCCC | C4H11N
reactant | water | O | H2O
reactant | acetonitrile | 75mL | C(C)#N | C2H3N
product | 2-Amino-6-methylpropylamino-9H-purine | NC1=NC(=C2N=CN(C2=N1)NCCC)C | C9H14N6
